US06720320B2
2-(5-ethylthiophen-2-yl)-4-hydroxybenzo(b)furan
By the reactions in the same manner as in Starting Material Synthesis Example 5 using 2-(5-ethylthiophen-2-yl)-4-methoxybenzo(b)furan (1.00 g) and boron tribromide (1.0 ml), the title compound (774 mg) was obtained as colorless crystals, melting point 87-90° C.

reactant | 2-(5-ethylthiophen-2-yl)-4-methoxybenzo(b)furan | 1.00 g | C(C)C1=CC=C(S1)C1=CC2=C(O1)C=CC=C2OC | C15H14O2S
reactant | boron tribromide | 1.0 ml | B(Br)(Br)Br | BBr3
product | 2-(5-ethylthiophen-2-yl)-4-hydroxybenzo(b)furan | 774 mg | C(C)C1=CC=C(S1)C1=CC2=C(O1)C=CC=C2O | C14H12O2S
